US07470803B2
(b) Synthesis of 4-[(4-trifluoromethylphenyl)methanesulfonyl]phenol
To a 15 ml of acetic acid solution of 2.23 g of 4-(4-trifluoromethylbenzylsulfanyl)phenol was added slowly, 2.5 ml of 30% hydrogen peroxide solution at approximately 80° C. The reaction mixture was stirred for 3 hours at 90° C., then poured into water, and the resulted precipitate was collected by filteration. After washing with water, the precipitate was dried by heating under the reduced pressure to produce 2.34 g of the desired product.

reactant | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
reactant | 4-(4-trifluoromethylbenzylsulfanyl)phenol | 2.23 g | FC(C1=CC=C(CSC2=CC=C(C=C2)O)C=C1)(F)F | C14H11F3OS
reactant | hydrogen peroxide | 2.5 ml | OO | H2O2
reactant | water | O | H2O
product | 4-[(4-trifluoromethylphenyl)methanesulfonyl]phenol | 2.34 g | FC(C1=CC=C(C=C1)CS(=O)(=O)C1=CC=C(C=C1)O)(F)F | C14H11F3O3S
